US05856495
4) 2-[2,4-Dichloro-5-(2-propynyloxy)phenyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridine-3(2H) -one
N-Chlorocarbonyl-2-chloro-1,4,5,6-tetrahydro-pyridine (4.32 g, 0.024 mol) dissolved in 20 ml acetonitrile are added to a stirred suspension of formic acid N'-(2,4-dichloro-5-(2-propinyloxy)-phenyl) hydrazide (5.18 g, 0.02 mol) in 250 ml acetonitrile at 0°-10° C. for 20 minutes. This is then reacted at the same temperature with triethylamine (4.04 g, 0.04 mol) and dissolved in 20 ml acetonitrile. This is stirred for one hour at 5°-10° C. and a colourless precipitate precipitates out. This is heated for 4 hours to 50°-55° C. and then stirred for one night at room temperature. The batch is reacted with 30 ml 6N hydrochloric acid and stirred for 1 hour at 50° C. The solvent is drawn off under reduced pressure and the residue digested with iced water. The resultant pale grey precipitate is separated by filtration, washed with water and dried at 50°-60° C. Yield: 6.6 g (=97.6%) Melting point: 160°-162° C.

reactant | N-Chlorocarbonyl-2-chloro-1,4,5,6-tetrahydro-pyridine | 0.024 mol, 4.32 g | ClC(=O)N1C(=CCCC1)Cl | C6H7Cl2NO
reactant | formic acid N'-(2,4-dichloro-5-(2-propinyloxy)-phenyl) hydrazide | 0.02 mol, 5.18 g | ClC1=C(C=C(C(=C1)Cl)OCC#C)NNC=O | C10H8Cl2N2O2
reactant | triethylamine | 0.04 mol, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[2,4-Dichloro-5-(2-propynyloxy)phenyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridine-3(2H) -one | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C2N(CCCC2)C1=O | C15H13Cl2N3O2
